US06534516B1
The process of Scheme IX begins with the reaction of an aniline (structure 37) with an unsaturated acid, for example acrylic acid, followed by a cyclization reaction mediated by, for example, polyphosphoric acid to afford a 4-quinolinone. The nitrogen atom is then protected by treatment with a base, for example, 4-dimethylaminopyridine, followed by the addition of an acylating agent such as di-tert-butyldicarbonate, to afford a compound of structure 38. Addition of an organomagnesium or organolithium reagent, with, for example, ethyl magnesium bromide, affords an alcohol. Reduction of the alcohol with, for example hydrogen over palladium on carbon, followed by deprotection of the nitrogen atom, affords a compound of structure 39. Nitration of a compound of structure 39 by the action of nitric acid in the presence of, for example, sulfuric acid, followed by reduction of the nitro group with, for example, hydrogen over palladium on carbon, affords a 7-amino-1,2,3,4-tetrahydroquinoline of structure 40. A Knorr cyclization with a β-keto ester effected by, for example, zinc chloride, affords a compound of structure 41. A compound of structure 41 may be further transformed into a compound of structure 42 by acylation of the quinoline nitrogen, which may be accomplished in one of two ways. Treatment of structure 41 with an acid chloride, for example, acetyl chloride, followed by treatment with a base, for example, potassium carbonate, to afford a compound of structure 42. Alternatively, treatment of structure 41 may be treated with an anhydride, for example, trifluoroacetic anhyride, likewise to afford a compound of structure 42.

reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | acrylic acid | C(C=C)(=O)O | C3H4O2
product | 4-quinolinone | N1=CCC(C2=CC=CC=C12)=O | C9H7NO
